US09340625B2
Biphenylacetic acid (6.0 g (0.028 mol)) manufactured by Sigma-Aldrich Co. LLC was dissolved in dehydrated chloroform (60 ml). To this, oxalyl chloride (3.7 g (0.029 mol)) and N,N-dimethylformamide (0.04 ml (0.51 mmol)) were added. The mixture was stirred at room temperature for 72 hours. Chloroform, excessive oxalyl chloride and N,N-dimethylformamide were distillated away under reduced pressure to obtain biphenylacetyl chloride (6.5 g (0.028 mol)).

reactant | Biphenylacetic acid | 0.028 mol, 6.0 g | C=1(C(=CC=CC1)CC(=O)O)C1=CC=CC=C1 | C14H12O2
reactant | oxalyl chloride | 0.029 mol, 3.7 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | chloroform | 60 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | N,N-dimethylformamide | 0.51 mmol, 0.04 ml | CN(C=O)C | C3H7NO
product | biphenylacetyl chloride | 0.028 mol, 6.5 g | C=1(C(=CC=CC1)CC(=O)Cl)C1=CC=CC=C1 | C14H11ClO
